US06054457
To a solution of 4-amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (327 mg) and pyridine (80.3 mg) in dichloromethane (6 ml) was added dropwise 2-nitrobenzenesulfonyl chloride (150 mg) at ambient temperature and the mixture was stirred at ambient temperature for 5 hours. The resulting mixture was diluted with dichloromethane (10 ml) and the organic layer was washed successively with saturated sodium bicarbonate aqueous solution and brine. Drying, filtering and removal of solvents afforded a crude product. The crude product was chromatographed on silica gel (eluent; 2-4% methanol in chloroform) to give 4-(2-nitrobenzenesulfonyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (460 mg).

reactant | 4-amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 327 mg | NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C27H38N4O4
reactant | pyridine | 80.3 mg | N1=CC=CC=C1 | C5H5N
reactant | 2-nitrobenzenesulfonyl chloride | 150 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(2-nitrobenzenesulfonyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 460 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC1=C(C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=C1)OC | C33H41N5O8S
